US05872118
Oxalyl chloride (4.5 g, 0.035 mol, Aldrich) was added to an ice cold stirring mixture of 2-(6-fluoro-3-oxo-1-indanyl)acetic acid (5.0 g, 0.024 mol) in dichloromethane (200 ml) under a nitrogen atmosphere. The mixture was allowed to warm to room temperature and stirring was continued for 48 hrs. The volatiles were removed from the solution by spin evaporation in vacuo with the addition of dichloromethane (3×50 ml) to give 2-(6-fluoro-3-oxo-1-indanyl)acetyl chloride which was used without purification or analysis.

reactant | Oxalyl chloride | 0.035 mol, 4.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(6-fluoro-3-oxo-1-indanyl)acetic acid | 0.024 mol, 5.0 g | FC1=CC=C2C(CC(C2=C1)CC(=O)O)=O | C11H9FO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(6-fluoro-3-oxo-1-indanyl)acetyl chloride | FC1=CC=C2C(CC(C2=C1)CC(=O)Cl)=O | C11H8ClFO2
